US06911458B2
ii) 1-(3,4-Dichlorobenzyl)-4-piperidinylamine
1,2-dichloro-4-(chloromethyl)benzene (390 mg, 1.99 mmol)) was added to a solution of tert-butyl 4-piperidinylcarbamate (400 mg, 2.0 mmol) in DMF (25 ml) and triethylamine (2 ml). The solution was stirred at room temperature for 3 hrs and then concentrated in vacuo. To the solution of the solid in dichloromethane was added (30 ml) trifluoroacetic acid (6 ml) was added and stirred at room temperature for 2 hrs. The solution was diluted with dichloromethane and washed with two portions of water. The combined water washings were treated with 2M NaOH to pH 10 and extracted with ether. The ether was dried (Na2SO4), filtered and evaporated to leave a yellow residue (300 mg, 1.16 mmol).

reactant | 1,2-dichloro-4-(chloromethyl)benzene | 1.99 mmol, 390 mg | ClC1=C(C=C(C=C1)CCl)Cl | C7H5Cl3
reactant | tert-butyl 4-piperidinylcarbamate | 2.0 mmol, 400 mg | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | 1-(3,4-Dichlorobenzyl)-4-piperidinylamine | 1.16 mmol, 300 mg | ClC=1C=C(CN2CCC(CC2)N)C=CC1Cl | C12H16Cl2N2
